US07615555B2
Preparation of (3R)-3-(3,5-difluorophenyl)-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)propanal
To a solution of (4S,5R)-1-[(3R)-3-(3,5-difluorophenyl)-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)propanoyl]-3,4-dimethyl-5-phenylimidazolidin-2-one (618 mg) in anhydrous THF (15 ml) was added lithium borohydride (1.3 ml of 2M solution in THF). The resulting mixture was heated to 60° C. for 2 hours. The mixture was cooled and quenched with saturated ammonium chloride solution. The mixture was extracted with ethyl acetate (3×50 ml). The organic extracts were dried (MgSO4) and evaporated to a solid to give the title compound, which was used without further purification.

reactant | (4S,5R)-1-[(3R)-3-(3,5-difluorophenyl)-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)propanoyl]-3,4-dimethyl-5-phenylimidazolidin-2-one | 618 mg | FC=1C=C(C=C(C1)F)[C@H](CC(=O)N1C(N([C@H]([C@H]1C1=CC=CC=C1)C)C)=O)C1CCS(CC1)(=O)=O | C25H28F2N2O4S
reactant | lithium borohydride | 2M, 1.3 ml | [BH4-].[Li+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (3R)-3-(3,5-difluorophenyl)-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)propanal | FC=1C=C(C=C(C1)F)[C@H](CC=O)C1CCS(CC1)(=O)=O | C14H16F2O3S
